US07807856B2
Production of 2-(4-methoxybenzylidene)cyclohexanone
In a 1,000-ml, four-necked flask equipped with a mechanical stirrer, a reflux condenser and a thermometer were placed 68 g (0.5 mole) of p-anisaldehyde, 147 g (1.5 moles) of cyclohexanone and then 200 ml of water slowly. Thereto was slowly added, in a water bath, an aqueous solution obtained by diluting 80 g (0.5 mole) of a 25% aqueous sodium hydroxide solution, with 300 ml of water. The system was stirred at 65° C. for 48 hours and cooled to room temperature. To the system were added 400 ml of toluene and 100 ml of water for phase separation. The aqueous layer was re-extracted with 100 ml of toluene. The toluene layers were combined and washed with water and a saturated aqueous sodium chloride solution in this order. The resulting toluene layer was dried over anhydrous sodium sulfate and subjected to vacuum distillation to remove toluene and the excessive (remaining) cyclohexanone. To the crude oil obtained were added 80 ml of toluene and 80 ml of n-hexane for recrystallization, to obtain 80.4 g of yellow crystals. Yield: 74% The purity of the intended product in the crystals was 88% as measured by high performance liquid chromatography.

reactant | p-anisaldehyde | 0.5 mole, 68 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | cyclohexanone | 1.5 moles, 147 g | C1(CCCCC1)=O | C6H10O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | n-hexane | 80 ml | CCCCCC | C6H14
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-(4-methoxybenzylidene)cyclohexanone | 80.4 g, Yield: 74% | COC1=CC=C(C=C2C(CCCC2)=O)C=C1 | C14H16O2
